US04296138
Preparation of 1-n-Butoxy-1-Ethanol Acetate
Into a 2000 ml reaction flask, equipped with stirrer, cooling bath, thermometer, addition funnel and nitrogen blanket apparatus, is added 420 ml of acetic acid (7.0 moles) and 3.0 ml of acetyl chloride. Dropwise over a period of 1.5 hours, while maintaining the reaction mass at 50°-72° C. is added 950 ml (7.7 moles) of n-butyl vinyl ether (770 grams). At the end of the addition of said n-butyl vinyl ether, the reaction mass is stirred for a period of six hours, while maintaining the temperature thereof at 30° C.

reactant | acetic acid | 7.0 moles, 420 ml | C(C)(=O)O | C2H4O2
reactant | acetyl chloride | 3.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | n-butyl vinyl ether | 7.7 moles, 950 ml, 770 grams | C(=C)OCCCC | C6H12O
product | 1-n-Butoxy-1-Ethanol Acetate | C(C)(=O)OC(C)OCCCC | C8H16O3
